US09388177B2
methyl 2-(4-fluorophenyl)-3-hydroxypropanoate
To a stirred solution of methyl (4-fluorophenyl)acetate (5.5 g) in DMSO (220 mL) was added 1,3,5-trioxane (3.24 g) and sodium methoxide (88 mg). The mixture was stirred at room temperature for 16 h. Water was added and the reaction mixture was extracted with ethyl acetate. The organic phase was washed with saturated sodium chloride solution, dried (sodium sulfate) and the solvent was removed in vacuum. Silicagel chromatography gave 3.8 g of the title compound.

reactant | methyl (4-fluorophenyl)acetate | 5.5 g | FC1=CC=C(C=C1)CC(=O)OC | C9H9FO2
reactant | 1,3,5-trioxane | 3.24 g | O1COCOC1 | C3H6O3
reactant | Water | O | H2O
solvent | DMSO | 220 mL | CS(=O)C | C2H6OS
catalyst | sodium methoxide | 88 mg | C[O-].[Na+]
product | methyl 2-(4-fluorophenyl)-3-hydroxypropanoate | 3.8 g | FC1=CC=C(C=C1)C(C(=O)OC)CO | C10H11FO3
